US04963590
3-(3,4-Dihydroxy-5-nitrophenyl)-1-(4-methoxyphenyl)-prop-2-en-1-one
The procedure described in Example 8 was repeated using 1.8 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 1.5 g of 4'-methoxyacetophenone in 20 ml of tetrahydrofuran. Yield 1.88 g (60%), m.p. 222°-228° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.8 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | 4'-methoxyacetophenone | 1.5 g | COC1=CC=C(C=C1)C(C)=O | C9H10O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(3,4-Dihydroxy-5-nitrophenyl)-1-(4-methoxyphenyl)-prop-2-en-1-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=CC(=O)C1=CC=C(C=C1)OC | C16H13NO6
